US07863444B2
A mixture of 4-bromo-2-methoxyaniline (34.0 g, 0.17 mol) and di-tert-butyl dicarbonate (44.5 g, 0.20 mol) in tetrahydrofuran (350 ml) was heated at reflux for 22 h. The mixture was allowed to cool to ambient temperature and the solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate (350 ml) and washed with 1 N citric acid (200 ml), dried over magnesium sulfate, filtered and evaporated to give tert-butyl N-(4-bromo-2-methoxyphenyl)carbamate as a yellow oil (80% pure, 57.10 g, 0.15 mol): 1H NMR (DMSO-d6, 400 MHz) δ 8.01 (s, 1H), 7.63 (d, 1H), 7.17 (d, 1H), 7.07 (dd, 1H), 3.82 (s, 3H), 1.45 (s, 9H); TLC (n-heptane/ethyl acetate=2:1) Rf 0.67.

reactant | 4-bromo-2-methoxyaniline | 0.17 mol, 34.0 g | BrC1=CC(=C(N)C=C1)OC | C7H8BrNO
reactant | di-tert-butyl dicarbonate | 0.20 mol, 44.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
product | tert-butyl N-(4-bromo-2-methoxyphenyl)carbamate | BrC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)OC | C12H16BrNO3
